US07345067B2
Analogously, to example 1.4, (4-{tert-butoxycarbonyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid ethyl ester was deprotected with TFA to give (4-{[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid ethyl ester, MS: 451 (MH+), MP: 153-155° C., dec.

reactant | (4-{tert-butoxycarbonyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=CC=C(C=C1)N(CC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C(=O)OC(C)(C)C)=O | C27H29F3N2O5S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | (4-{[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=CC=C(C=C1)NCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C22H21F3N2O3S
